US07700628B2
D. 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide hydrochloride
By methods substantially equivalent to those described in Example 16-G, 2-[4-(tert-butyl)-2-(piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-chloro-benzamide hydrochloride (0.326 g, 88%) was prepared from 2-[4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide.

reactant | 2-[4-(tert-butyl)-2-(piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-chloro-benzamide hydrochloride | 0.326 g | Cl.C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCNCC1
reactant | 2-[4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H38Cl2N4O5
product | 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide hydrochloride | Cl.C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | InChI=1S/C33H38Cl2N4O5.ClH/c1-32(2,3)20-7-10-24(27(17-20)43-23-13-15-39(16-14-23)31(42)44-33(4,5)6)29(40)37-26-11-8-21(34)18-25(26)30(41)38-28-12-9-22(35)19-36-28;/h7-12,17-19,23H,13-16H2,1-6H3,(H,37,40)(H,36,38,41);1H
